US06165980
A solution of 1-methyl-4-[1-methyl-4-[1-methyl-4-nitropyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxylic acid (590 mg) (prepared as reported in Tetrahedron 34,2389-2391,1978) in 20 ml of DMF, 2-aminoethylguanidine dihydrochloride (500 mg), 1-hydroxybenzotriazole hydrate(350 mg), dicycloexylcarbodiimide (880 mg), and sodium bicarbonate (385 mg) was stirred at 70° C. for 4 hours. The solution obtained after filtration was evaporated in vacuo and the residue purified by flash chromatography (methylene chloride/methanol: 8/2) to yield 800 mg of 2-[1-methyl-4-[1-methyl-4-[1-methyl-4-nitropyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]ethylguanidine hydrochloride, which was dissolved in methanol (100 ml), added with 1N hydrochloric acid solution (2 ml) and reduced over Pd catalyst (10% on charcoal) in hydrogen atmosphere (50 psi) in a Parr apparatus. The solution obtained after filtration of the catalyst was evaporated in vacuo and the solid residue washed with dry ethanol to yield 750 mg of the intermediate as a brown powder.

reactant | 1-methyl-4-[1-methyl-4-[1-methyl-4-nitropyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxylic acid | 590 mg | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C)C(=O)O | C18H18N6O6
reactant | 2-aminoethylguanidine dihydrochloride | 500 mg | Cl.Cl.NCCNC(=N)N
reactant | 1-hydroxybenzotriazole hydrate | 350 mg | O.ON1N=NC2=C1C=CC=C2
reactant | sodium bicarbonate | 385 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[1-methyl-4-[1-methyl-4-[1-methyl-4-nitropyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]ethylguanidine hydrochloride | 800 mg | Cl.CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C)C(=O)NCCNC(=N)N | InChI=1S/C21H26N10O5.ClH/c1-28-9-12(6-15(28)18(32)24-4-5-25-21(22)23)26-19(33)16-7-13(10-29(16)2)27-20(34)17-8-14(31(35)36)11-30(17)3;/h6-11H,4-5H2,1-3H3,(H,24,32)(H,26,33)(H,27,34)(H4,22,23,25);1H
